US07674807B2
3-Methyl-4-nitrobenzyl chloride (1.81 g), 3,5-bis(trifluoromethyl)-1H-pyrazole (2.0 g) and potassium carbonate (1.63 g) were stirred in DMF (20 ml) at 60° C. for 1 hour. After finishing the reaction, water (100 ml) was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride (100 ml) and dried with anhydrous sodium sulfate. After distilling off the solvent, the obtained residue was purified by silica gel column chromatography to obtain 1-(3-methyl-4-nitrobenzyl)-3,5-bis-(trifluoromethyl)-1H-pyrazole (3.3 g).

reactant | 3-Methyl-4-nitrobenzyl chloride | 1.81 g | CC=1C=C(CCl)C=CC1[N+](=O)[O-] | C8H8ClNO2
reactant | 3,5-bis(trifluoromethyl)-1H-pyrazole | 2.0 g | FC(C1=NNC(=C1)C(F)(F)F)(F)F | C5H2F6N2
reactant | potassium carbonate | 1.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(3-methyl-4-nitrobenzyl)-3,5-bis-(trifluoromethyl)-1H-pyrazole | 3.3 g | CC=1C=C(CN2N=C(C=C2C(F)(F)F)C(F)(F)F)C=CC1[N+](=O)[O-] | C13H9F6N3O2
